US04120690
Preparation of 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-aminothiazole
A reaction mixture comprising 11.2 g (0.035 mole) of N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-4-bromoacetoacetamide, 200 ml of ethanol and 2.8 g (0.037 mole) of thiourea was refluxed for 3 hours. The reaction solution was cooled and added to 300 ml of water. With stirring, there was slowly added an excess of saturated aqueous sodium bicarbonate. The product was collected and dried. There was obtained 10 g (96.2%) of white solid, m.p. 226° (dec.). N.M.R. (dimethyl-d6 sulfoxide) ∂ 1.4 [C(CH3)3 ], 3.6 (CH2), 6.3 (hetero-aromatic), 6.9 (NH).

reactant | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-4-bromoacetoacetamide | 0.035 mole, 11.2 g | C(C)(C)(C)C1=NN=C(S1)NC(CC(=O)CBr)=O | C10H14BrN3O2S
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | thiourea | 0.037 mole, 2.8 g | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 300 ml | O | H2O
product | 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-aminothiazole | 10 g, 96.2% | C(C)(C)(C)C1=NN=C(S1)NC(=O)CC=1N=C(SC1)N | C11H15N5OS2
